US07205403B2
Preparation of 1,3-dipropyl-8-(6-hydroxy-pyridazin-3-yl)-xanthine
To a solution of 1,3-dipropyl-5,6-diaminouracil (2.2 mmol) in methanol was added an equimolar amount of 6-hydroxy-pyridazine-3-carboxylic acid, followed by a slight excess of DCl ((N-(3-(dimethylamino)propyl)-N′ethylcarbodiimide hydrochloride). The mixture was stirred at room temperature for 4–5 hours until complete by TLC. Water was then added and the precipitate removed by filtration. The solid was dissolved in 10% aqueous NaOH (20 mL), then heated at 70° C. for 30 minutes. After cooling to room temperature, the reaction mixture was acidified to pH=5 with 10% hydrochloric acid and the precipitated product collected by filtration.

reactant | 1,3-dipropyl-5,6-diaminouracil | 2.2 mmol | C(CC)N1C(=O)N(C(=O)C(=C1N)N)CCC | C10H18N4O2
reactant | 6-hydroxy-pyridazine-3-carboxylic acid | OC1=CC=C(N=N1)C(=O)O | C5H4N2O3
reactant | N-(3-(dimethylamino)propyl)-N′ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
product | 1,3-dipropyl-8-(6-hydroxy-pyridazin-3-yl)-xanthine | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C=1N=NC(=CC1)O)CCC | C15H18N6O3
